US09084794B2
a) 4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one
A suspension of 4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one hydrochloride (8.11 mmol) in dichloromethane (10 mL) was treated with 1N aq NaOH (10.00 mmol). The biphasic mixture was stirred for 1 hour, at which point the cloudy organic layer had turned clear. The contents of the flask were further diluted with water (50 mL) and dichloromethane (50 mL) and the layers were separated. The aqueous layer was extracted with dichloromethane. The organic layers were combined, dried over sodium sulfate, filtered and concentrated in vacuo to afford the title compound as a yellow oil (80%). MS(ES)+ m/e 211.2 [M+H]+.

reactant | 4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one hydrochloride | 8.11 mmol | Cl.C1(CC1)N1C(COC2(C1)CCNCC2)=O
reactant | NaOH | 10.00 mmol, 1N | [OH-].[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | 50 mL | O | H2O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one | 80% | C1(CC1)N1C(COC2(C1)CCNCC2)=O | C11H18N2O2
